US07750185B2
Preparation of 2,2-dimethyl-5,5-bis(4-nitrobenzyl)-1,3-dioxane-4,6-dione
15.0 g (69.4 mmol) of 4-nitrobenzylbromide and 5.00 g (34.7 mmol) of Meldrum's acid were dissolved in 100 ml 2-butanone. 4.40 g (104.1 mmol) potassium carbonate were added, the resulting suspension was heated to 50° C. and allowed to react for 2.5 hours. After cooling to room temperature, 100 ml water were added. The product was collected by filtration and washed with a lot of water. 12.3 g (85%) of 2,2-dimethyl-5,5-bis(4-nitrobenzyl)-1,3-dioxane-4,6-dione as yellowish powder was used without further purification.

reactant | 4-nitrobenzylbromide | 69.4 mmol, 15.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | Meldrum's acid | 34.7 mmol, 5.00 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | potassium carbonate | 104.1 mmol, 4.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | 2,2-dimethyl-5,5-bis(4-nitrobenzyl)-1,3-dioxane-4,6-dione | CC1(OC(C(C(O1)=O)(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C20H18N2O8
